US06921759B2
Step 2: Preparation of 8-(1-phenyl-methanoyloxy)-5-(3-piperidin-1-yl-prop-1-ynyl)-[1,6]naphthyridine-7-carboxylic acid methyl ester
To a stirred mixture of piperdine (207 μL, 2.09 mmol) and potassium carbonate (296 mg, 2.14 mmol) in dry acetonitrile (10 mL) was pipetted in 5-(3-methanesulfonyloxy-prop-1-ynyl)-8-(1-phenyl-methanoyloxy)-[1,6]naphthyridine-7-carboxylic acid methyl ester (230 mg, 0.522 mmol) in acetonitrile (1 mL) and the mixture was stirred at room temperature for 3 hours. The reaction was concentrated, filtered, and purified on the Gilson auto-prep running a 95-50% H2O (0.1% TFA)/CH3CN (0.09% TFA) gradient over 30 minutes to obtain the desired compound as a light brown oil.

reactant | piperdine | 2.09 mmol, 207 μL | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 2.14 mmol, 296 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-(3-methanesulfonyloxy-prop-1-ynyl)-8-(1-phenyl-methanoyloxy)-[1,6]naphthyridine-7-carboxylic acid methyl ester | 0.522 mmol, 230 mg | COC(=O)C1=NC(=C2C=CC=NC2=C1OC(=O)C1=CC=CC=C1)C#CCOS(=O)(=O)C | C21H16N2O7S
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 8-(1-phenyl-methanoyloxy)-5-(3-piperidin-1-yl-prop-1-ynyl)-[1,6]naphthyridine-7-carboxylic acid methyl ester | COC(=O)C1=NC(=C2C=CC=NC2=C1OC(=O)C1=CC=CC=C1)C#CCN1CCCCC1 | C25H23N3O4
